US07648986B2
Step 3: Preparation of N-[2-(aminocarbonyl)-3-thienyl]-2-quinoxalinecarboxamide
A mixture of 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylic acid (0.70 g, 2.3 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC, 2.24 g, 11.5 mmol), and 4-(dimethylamino)pyridine (DMAP, 1.43 g, 11.5 mmol) in CH2Cl2 (100 mL) was stirred at room temperature for 2 h. To the reaction mixture was added aqueous ammonia (40%, 5 mL), and the stirring continued for another 12 h. The solvent was evaporated to dryness and the resulting solid was washed with satd NH4Cl solution (3×), NaHCO3 solution and H2O. The organic phase was evaporated to dryness resulting in a white powder (0.32 g, 46%). HPLC/MS: (M+H)+ 299.4 m/z

reactant | 3-[(2-quinoxalinylcarbonyl)amino]-2-thiophenecarboxylic acid | 2.3 mmol, 0.70 g | N1=C(C=NC2=CC=CC=C12)C(=O)NC1=C(SC=C1)C(=O)O | C14H9N3O3S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 11.5 mmol, 2.24 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 5 mL | N | H3N
catalyst | 4-(dimethylamino)pyridine | 11.5 mmol, 1.43 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(aminocarbonyl)-3-thienyl]-2-quinoxalinecarboxamide | 0.32 g, 46% | NC(=O)C=1SC=CC1NC(=O)C1=NC2=CC=CC=C2N=C1 | C14H10N4O2S
